US09079902B2
3-(2-Chloro-4-Methoxyphenyl)-1-Methyl-N-(1,2,4-Thiadiazol-5-yl)-1H-Indole-6-Sulfonamide
The title compound was prepared in an analogous manner to that described in Example 28 using (2-chloro-4-methoxyphenyl)boronic acid and 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, and the desired product, 3-(2-chloro-4-methoxyphenyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, was isolated as an off-white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 3.82 (s, 3 H) 3.92 (s, 3 H) 6.96-7.04 (m, 1 H) 7.17 (d, J=2.63 Hz, 1 H) 7.42 (d, J=8.59 Hz, 1 H) 7.45-7.53 (m, 2 H) 7.71 (s, 1 H) 7.93 (s, 1 H) 8.19 (s, 1 H). m/z (ESI) 434.0 (M+H)+.

reactant | (2-chloro-4-methoxyphenyl)boronic acid | ClC1=C(C=CC(=C1)OC)B(O)O | C7H8BClO3
reactant | 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | BrC1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C20H19BrN4O4S2
product | 3-(2-chloro-4-methoxyphenyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | ClC1=C(C=CC(=C1)OC)C1=CN(C2=CC(=CC=C12)S(=O)(=O)NC1=NC=NS1)C | C18H15ClN4O3S2
